US04513005
A mixture of 6-[1-(hydroxypropylsulphonyl)-3-phenyl-2-propenyl]tetrahydro-2H-pyran-2-one, (see Example 24) (1.0 g) and pyridinium dichromate (4.67 g) in dimethyl formamide (10 ml) was stirred at room temperature for 20 hours. The mixture was diluted with water and extracted with ethyl acetate to give 6-[1-(carboxyethylsulphonyl)-3-phenyl-2-propenyl]tetrahydro-2H-pyran-2-one as an oil. The lactone was hydrolysed and the disodium salt prepared, as described in Example 22(b) to give the disodium salt of the title compound, m.p. about 203° C.

reactant | 6-[1-(hydroxypropylsulphonyl)-3-phenyl-2-propenyl]tetrahydro-2H-pyran-2-one | OCCCS(=O)(=O)C(C=CC1=CC=CC=C1)C1CCCC(O1)=O | C17H22O5S
reactant | pyridinium dichromate | 4.67 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-[1-(carboxyethylsulphonyl)-3-phenyl-2-propenyl]tetrahydro-2H-pyran-2-one | C(=O)(O)CCS(=O)(=O)C(C=CC1=CC=CC=C1)C1CCCC(O1)=O | C17H20O6S
